*600
V1 1 0 SINE(0 100 1)
R1 1 2 1
R601 1 0 1000
R2 2 3 1
R602 2 0 1000
R3 3 4 1
R603 3 0 1000
R4 4 5 1
R604 4 0 1000
R5 5 6 1
R605 5 0 1000
R6 6 7 1
R606 6 0 1000
R7 7 8 1
R607 7 0 1000
R8 8 9 1
R608 8 0 1000
R9 9 10 1
R609 9 0 1000
R10 10 11 1
R610 10 0 1000
R11 11 12 1
R611 11 0 1000
R12 12 13 1
R612 12 0 1000
R13 13 14 1
R613 13 0 1000
R14 14 15 1
R614 14 0 1000
R15 15 16 1
R615 15 0 1000
R16 16 17 1
R616 16 0 1000
R17 17 18 1
R617 17 0 1000
R18 18 19 1
R618 18 0 1000
R19 19 20 1
R619 19 0 1000
R20 20 21 1
R620 20 0 1000
R21 21 22 1
R621 21 0 1000
R22 22 23 1
R622 22 0 1000
R23 23 24 1
R623 23 0 1000
R24 24 25 1
R624 24 0 1000
R25 25 26 1
R625 25 0 1000
R26 26 27 1
R626 26 0 1000
R27 27 28 1
R627 27 0 1000
R28 28 29 1
R628 28 0 1000
R29 29 30 1
R629 29 0 1000
R30 30 31 1
R630 30 0 1000
R31 31 32 1
R631 31 0 1000
R32 32 33 1
R632 32 0 1000
R33 33 34 1
R633 33 0 1000
R34 34 35 1
R634 34 0 1000
R35 35 36 1
R635 35 0 1000
R36 36 37 1
R636 36 0 1000
R37 37 38 1
R637 37 0 1000
R38 38 39 1
R638 38 0 1000
R39 39 40 1
R639 39 0 1000
R40 40 41 1
R640 40 0 1000
R41 41 42 1
R641 41 0 1000
R42 42 43 1
R642 42 0 1000
R43 43 44 1
R643 43 0 1000
R44 44 45 1
R644 44 0 1000
R45 45 46 1
R645 45 0 1000
R46 46 47 1
R646 46 0 1000
R47 47 48 1
R647 47 0 1000
R48 48 49 1
R648 48 0 1000
R49 49 50 1
R649 49 0 1000
R50 50 51 1
R650 50 0 1000
R51 51 52 1
R651 51 0 1000
R52 52 53 1
R652 52 0 1000
R53 53 54 1
R653 53 0 1000
R54 54 55 1
R654 54 0 1000
R55 55 56 1
R655 55 0 1000
R56 56 57 1
R656 56 0 1000
R57 57 58 1
R657 57 0 1000
R58 58 59 1
R658 58 0 1000
R59 59 60 1
R659 59 0 1000
R60 60 61 1
R660 60 0 1000
R61 61 62 1
R661 61 0 1000
R62 62 63 1
R662 62 0 1000
R63 63 64 1
R663 63 0 1000
R64 64 65 1
R664 64 0 1000
R65 65 66 1
R665 65 0 1000
R66 66 67 1
R666 66 0 1000
R67 67 68 1
R667 67 0 1000
R68 68 69 1
R668 68 0 1000
R69 69 70 1
R669 69 0 1000
R70 70 71 1
R670 70 0 1000
R71 71 72 1
R671 71 0 1000
R72 72 73 1
R672 72 0 1000
R73 73 74 1
R673 73 0 1000
R74 74 75 1
R674 74 0 1000
R75 75 76 1
R675 75 0 1000
R76 76 77 1
R676 76 0 1000
R77 77 78 1
R677 77 0 1000
R78 78 79 1
R678 78 0 1000
R79 79 80 1
R679 79 0 1000
R80 80 81 1
R680 80 0 1000
R81 81 82 1
R681 81 0 1000
R82 82 83 1
R682 82 0 1000
R83 83 84 1
R683 83 0 1000
R84 84 85 1
R684 84 0 1000
R85 85 86 1
R685 85 0 1000
R86 86 87 1
R686 86 0 1000
R87 87 88 1
R687 87 0 1000
R88 88 89 1
R688 88 0 1000
R89 89 90 1
R689 89 0 1000
R90 90 91 1
R690 90 0 1000
R91 91 92 1
R691 91 0 1000
R92 92 93 1
R692 92 0 1000
R93 93 94 1
R693 93 0 1000
R94 94 95 1
R694 94 0 1000
R95 95 96 1
R695 95 0 1000
R96 96 97 1
R696 96 0 1000
R97 97 98 1
R697 97 0 1000
R98 98 99 1
R698 98 0 1000
R99 99 100 1
R699 99 0 1000
R100 100 101 1
R700 100 0 1000
R101 101 102 1
R701 101 0 1000
R102 102 103 1
R702 102 0 1000
R103 103 104 1
R703 103 0 1000
R104 104 105 1
R704 104 0 1000
R105 105 106 1
R705 105 0 1000
R106 106 107 1
R706 106 0 1000
R107 107 108 1
R707 107 0 1000
R108 108 109 1
R708 108 0 1000
R109 109 110 1
R709 109 0 1000
R110 110 111 1
R710 110 0 1000
R111 111 112 1
R711 111 0 1000
R112 112 113 1
R712 112 0 1000
R113 113 114 1
R713 113 0 1000
R114 114 115 1
R714 114 0 1000
R115 115 116 1
R715 115 0 1000
R116 116 117 1
R716 116 0 1000
R117 117 118 1
R717 117 0 1000
R118 118 119 1
R718 118 0 1000
R119 119 120 1
R719 119 0 1000
R120 120 121 1
R720 120 0 1000
R121 121 122 1
R721 121 0 1000
R122 122 123 1
R722 122 0 1000
R123 123 124 1
R723 123 0 1000
R124 124 125 1
R724 124 0 1000
R125 125 126 1
R725 125 0 1000
R126 126 127 1
R726 126 0 1000
R127 127 128 1
R727 127 0 1000
R128 128 129 1
R728 128 0 1000
R129 129 130 1
R729 129 0 1000
R130 130 131 1
R730 130 0 1000
R131 131 132 1
R731 131 0 1000
R132 132 133 1
R732 132 0 1000
R133 133 134 1
R733 133 0 1000
R134 134 135 1
R734 134 0 1000
R135 135 136 1
R735 135 0 1000
R136 136 137 1
R736 136 0 1000
R137 137 138 1
R737 137 0 1000
R138 138 139 1
R738 138 0 1000
R139 139 140 1
R739 139 0 1000
R140 140 141 1
R740 140 0 1000
R141 141 142 1
R741 141 0 1000
R142 142 143 1
R742 142 0 1000
R143 143 144 1
R743 143 0 1000
R144 144 145 1
R744 144 0 1000
R145 145 146 1
R745 145 0 1000
R146 146 147 1
R746 146 0 1000
R147 147 148 1
R747 147 0 1000
R148 148 149 1
R748 148 0 1000
R149 149 150 1
R749 149 0 1000
R150 150 151 1
R750 150 0 1000
R151 151 152 1
R751 151 0 1000
R152 152 153 1
R752 152 0 1000
R153 153 154 1
R753 153 0 1000
R154 154 155 1
R754 154 0 1000
R155 155 156 1
R755 155 0 1000
R156 156 157 1
R756 156 0 1000
R157 157 158 1
R757 157 0 1000
R158 158 159 1
R758 158 0 1000
R159 159 160 1
R759 159 0 1000
R160 160 161 1
R760 160 0 1000
R161 161 162 1
R761 161 0 1000
R162 162 163 1
R762 162 0 1000
R163 163 164 1
R763 163 0 1000
R164 164 165 1
R764 164 0 1000
R165 165 166 1
R765 165 0 1000
R166 166 167 1
R766 166 0 1000
R167 167 168 1
R767 167 0 1000
R168 168 169 1
R768 168 0 1000
R169 169 170 1
R769 169 0 1000
R170 170 171 1
R770 170 0 1000
R171 171 172 1
R771 171 0 1000
R172 172 173 1
R772 172 0 1000
R173 173 174 1
R773 173 0 1000
R174 174 175 1
R774 174 0 1000
R175 175 176 1
R775 175 0 1000
R176 176 177 1
R776 176 0 1000
R177 177 178 1
R777 177 0 1000
R178 178 179 1
R778 178 0 1000
R179 179 180 1
R779 179 0 1000
R180 180 181 1
R780 180 0 1000
R181 181 182 1
R781 181 0 1000
R182 182 183 1
R782 182 0 1000
R183 183 184 1
R783 183 0 1000
R184 184 185 1
R784 184 0 1000
R185 185 186 1
R785 185 0 1000
R186 186 187 1
R786 186 0 1000
R187 187 188 1
R787 187 0 1000
R188 188 189 1
R788 188 0 1000
R189 189 190 1
R789 189 0 1000
R190 190 191 1
R790 190 0 1000
R191 191 192 1
R791 191 0 1000
R192 192 193 1
R792 192 0 1000
R193 193 194 1
R793 193 0 1000
R194 194 195 1
R794 194 0 1000
R195 195 196 1
R795 195 0 1000
R196 196 197 1
R796 196 0 1000
R197 197 198 1
R797 197 0 1000
R198 198 199 1
R798 198 0 1000
R199 199 200 1
R799 199 0 1000
R200 200 201 1
R800 200 0 1000
R201 201 202 1
R801 201 0 1000
R202 202 203 1
R802 202 0 1000
R203 203 204 1
R803 203 0 1000
R204 204 205 1
R804 204 0 1000
R205 205 206 1
R805 205 0 1000
R206 206 207 1
R806 206 0 1000
R207 207 208 1
R807 207 0 1000
R208 208 209 1
R808 208 0 1000
R209 209 210 1
R809 209 0 1000
R210 210 211 1
R810 210 0 1000
R211 211 212 1
R811 211 0 1000
R212 212 213 1
R812 212 0 1000
R213 213 214 1
R813 213 0 1000
R214 214 215 1
R814 214 0 1000
R215 215 216 1
R815 215 0 1000
R216 216 217 1
R816 216 0 1000
R217 217 218 1
R817 217 0 1000
R218 218 219 1
R818 218 0 1000
R219 219 220 1
R819 219 0 1000
R220 220 221 1
R820 220 0 1000
R221 221 222 1
R821 221 0 1000
R222 222 223 1
R822 222 0 1000
R223 223 224 1
R823 223 0 1000
R224 224 225 1
R824 224 0 1000
R225 225 226 1
R825 225 0 1000
R226 226 227 1
R826 226 0 1000
R227 227 228 1
R827 227 0 1000
R228 228 229 1
R828 228 0 1000
R229 229 230 1
R829 229 0 1000
R230 230 231 1
R830 230 0 1000
R231 231 232 1
R831 231 0 1000
R232 232 233 1
R832 232 0 1000
R233 233 234 1
R833 233 0 1000
R234 234 235 1
R834 234 0 1000
R235 235 236 1
R835 235 0 1000
R236 236 237 1
R836 236 0 1000
R237 237 238 1
R837 237 0 1000
R238 238 239 1
R838 238 0 1000
R239 239 240 1
R839 239 0 1000
R240 240 241 1
R840 240 0 1000
R241 241 242 1
R841 241 0 1000
R242 242 243 1
R842 242 0 1000
R243 243 244 1
R843 243 0 1000
R244 244 245 1
R844 244 0 1000
R245 245 246 1
R845 245 0 1000
R246 246 247 1
R846 246 0 1000
R247 247 248 1
R847 247 0 1000
R248 248 249 1
R848 248 0 1000
R249 249 250 1
R849 249 0 1000
R250 250 251 1
R850 250 0 1000
R251 251 252 1
R851 251 0 1000
R252 252 253 1
R852 252 0 1000
R253 253 254 1
R853 253 0 1000
R254 254 255 1
R854 254 0 1000
R255 255 256 1
R855 255 0 1000
R256 256 257 1
R856 256 0 1000
R257 257 258 1
R857 257 0 1000
R258 258 259 1
R858 258 0 1000
R259 259 260 1
R859 259 0 1000
R260 260 261 1
R860 260 0 1000
R261 261 262 1
R861 261 0 1000
R262 262 263 1
R862 262 0 1000
R263 263 264 1
R863 263 0 1000
R264 264 265 1
R864 264 0 1000
R265 265 266 1
R865 265 0 1000
R266 266 267 1
R866 266 0 1000
R267 267 268 1
R867 267 0 1000
R268 268 269 1
R868 268 0 1000
R269 269 270 1
R869 269 0 1000
R270 270 271 1
R870 270 0 1000
R271 271 272 1
R871 271 0 1000
R272 272 273 1
R872 272 0 1000
R273 273 274 1
R873 273 0 1000
R274 274 275 1
R874 274 0 1000
R275 275 276 1
R875 275 0 1000
R276 276 277 1
R876 276 0 1000
R277 277 278 1
R877 277 0 1000
R278 278 279 1
R878 278 0 1000
R279 279 280 1
R879 279 0 1000
R280 280 281 1
R880 280 0 1000
R281 281 282 1
R881 281 0 1000
R282 282 283 1
R882 282 0 1000
R283 283 284 1
R883 283 0 1000
R284 284 285 1
R884 284 0 1000
R285 285 286 1
R885 285 0 1000
R286 286 287 1
R886 286 0 1000
R287 287 288 1
R887 287 0 1000
R288 288 289 1
R888 288 0 1000
R289 289 290 1
R889 289 0 1000
R290 290 291 1
R890 290 0 1000
R291 291 292 1
R891 291 0 1000
R292 292 293 1
R892 292 0 1000
R293 293 294 1
R893 293 0 1000
R294 294 295 1
R894 294 0 1000
R295 295 296 1
R895 295 0 1000
R296 296 297 1
R896 296 0 1000
R297 297 298 1
R897 297 0 1000
R298 298 299 1
R898 298 0 1000
R299 299 300 1
R899 299 0 1000
R300 300 301 1
R900 300 0 1000
R301 301 302 1
R901 301 0 1000
R302 302 303 1
R902 302 0 1000
R303 303 304 1
R903 303 0 1000
R304 304 305 1
R904 304 0 1000
R305 305 306 1
R905 305 0 1000
R306 306 307 1
R906 306 0 1000
R307 307 308 1
R907 307 0 1000
R308 308 309 1
R908 308 0 1000
R309 309 310 1
R909 309 0 1000
R310 310 311 1
R910 310 0 1000
R311 311 312 1
R911 311 0 1000
R312 312 313 1
R912 312 0 1000
R313 313 314 1
R913 313 0 1000
R314 314 315 1
R914 314 0 1000
R315 315 316 1
R915 315 0 1000
R316 316 317 1
R916 316 0 1000
R317 317 318 1
R917 317 0 1000
R318 318 319 1
R918 318 0 1000
R319 319 320 1
R919 319 0 1000
R320 320 321 1
R920 320 0 1000
R321 321 322 1
R921 321 0 1000
R322 322 323 1
R922 322 0 1000
R323 323 324 1
R923 323 0 1000
R324 324 325 1
R924 324 0 1000
R325 325 326 1
R925 325 0 1000
R326 326 327 1
R926 326 0 1000
R327 327 328 1
R927 327 0 1000
R328 328 329 1
R928 328 0 1000
R329 329 330 1
R929 329 0 1000
R330 330 331 1
R930 330 0 1000
R331 331 332 1
R931 331 0 1000
R332 332 333 1
R932 332 0 1000
R333 333 334 1
R933 333 0 1000
R334 334 335 1
R934 334 0 1000
R335 335 336 1
R935 335 0 1000
R336 336 337 1
R936 336 0 1000
R337 337 338 1
R937 337 0 1000
R338 338 339 1
R938 338 0 1000
R339 339 340 1
R939 339 0 1000
R340 340 341 1
R940 340 0 1000
R341 341 342 1
R941 341 0 1000
R342 342 343 1
R942 342 0 1000
R343 343 344 1
R943 343 0 1000
R344 344 345 1
R944 344 0 1000
R345 345 346 1
R945 345 0 1000
R346 346 347 1
R946 346 0 1000
R347 347 348 1
R947 347 0 1000
R348 348 349 1
R948 348 0 1000
R349 349 350 1
R949 349 0 1000
R350 350 351 1
R950 350 0 1000
R351 351 352 1
R951 351 0 1000
R352 352 353 1
R952 352 0 1000
R353 353 354 1
R953 353 0 1000
R354 354 355 1
R954 354 0 1000
R355 355 356 1
R955 355 0 1000
R356 356 357 1
R956 356 0 1000
R357 357 358 1
R957 357 0 1000
R358 358 359 1
R958 358 0 1000
R359 359 360 1
R959 359 0 1000
R360 360 361 1
R960 360 0 1000
R361 361 362 1
R961 361 0 1000
R362 362 363 1
R962 362 0 1000
R363 363 364 1
R963 363 0 1000
R364 364 365 1
R964 364 0 1000
R365 365 366 1
R965 365 0 1000
R366 366 367 1
R966 366 0 1000
R367 367 368 1
R967 367 0 1000
R368 368 369 1
R968 368 0 1000
R369 369 370 1
R969 369 0 1000
R370 370 371 1
R970 370 0 1000
R371 371 372 1
R971 371 0 1000
R372 372 373 1
R972 372 0 1000
R373 373 374 1
R973 373 0 1000
R374 374 375 1
R974 374 0 1000
R375 375 376 1
R975 375 0 1000
R376 376 377 1
R976 376 0 1000
R377 377 378 1
R977 377 0 1000
R378 378 379 1
R978 378 0 1000
R379 379 380 1
R979 379 0 1000
R380 380 381 1
R980 380 0 1000
R381 381 382 1
R981 381 0 1000
R382 382 383 1
R982 382 0 1000
R383 383 384 1
R983 383 0 1000
R384 384 385 1
R984 384 0 1000
R385 385 386 1
R985 385 0 1000
R386 386 387 1
R986 386 0 1000
R387 387 388 1
R987 387 0 1000
R388 388 389 1
R988 388 0 1000
R389 389 390 1
R989 389 0 1000
R390 390 391 1
R990 390 0 1000
R391 391 392 1
R991 391 0 1000
R392 392 393 1
R992 392 0 1000
R393 393 394 1
R993 393 0 1000
R394 394 395 1
R994 394 0 1000
R395 395 396 1
R995 395 0 1000
R396 396 397 1
R996 396 0 1000
R397 397 398 1
R997 397 0 1000
R398 398 399 1
R998 398 0 1000
R399 399 400 1
R999 399 0 1000
R400 400 401 1
R1000 400 0 1000
R401 401 402 1
R1001 401 0 1000
R402 402 403 1
R1002 402 0 1000
R403 403 404 1
R1003 403 0 1000
R404 404 405 1
R1004 404 0 1000
R405 405 406 1
R1005 405 0 1000
R406 406 407 1
R1006 406 0 1000
R407 407 408 1
R1007 407 0 1000
R408 408 409 1
R1008 408 0 1000
R409 409 410 1
R1009 409 0 1000
R410 410 411 1
R1010 410 0 1000
R411 411 412 1
R1011 411 0 1000
R412 412 413 1
R1012 412 0 1000
R413 413 414 1
R1013 413 0 1000
R414 414 415 1
R1014 414 0 1000
R415 415 416 1
R1015 415 0 1000
R416 416 417 1
R1016 416 0 1000
R417 417 418 1
R1017 417 0 1000
R418 418 419 1
R1018 418 0 1000
R419 419 420 1
R1019 419 0 1000
R420 420 421 1
R1020 420 0 1000
R421 421 422 1
R1021 421 0 1000
R422 422 423 1
R1022 422 0 1000
R423 423 424 1
R1023 423 0 1000
R424 424 425 1
R1024 424 0 1000
R425 425 426 1
R1025 425 0 1000
R426 426 427 1
R1026 426 0 1000
R427 427 428 1
R1027 427 0 1000
R428 428 429 1
R1028 428 0 1000
R429 429 430 1
R1029 429 0 1000
R430 430 431 1
R1030 430 0 1000
R431 431 432 1
R1031 431 0 1000
R432 432 433 1
R1032 432 0 1000
R433 433 434 1
R1033 433 0 1000
R434 434 435 1
R1034 434 0 1000
R435 435 436 1
R1035 435 0 1000
R436 436 437 1
R1036 436 0 1000
R437 437 438 1
R1037 437 0 1000
R438 438 439 1
R1038 438 0 1000
R439 439 440 1
R1039 439 0 1000
R440 440 441 1
R1040 440 0 1000
R441 441 442 1
R1041 441 0 1000
R442 442 443 1
R1042 442 0 1000
R443 443 444 1
R1043 443 0 1000
R444 444 445 1
R1044 444 0 1000
R445 445 446 1
R1045 445 0 1000
R446 446 447 1
R1046 446 0 1000
R447 447 448 1
R1047 447 0 1000
R448 448 449 1
R1048 448 0 1000
R449 449 450 1
R1049 449 0 1000
R450 450 451 1
R1050 450 0 1000
R451 451 452 1
R1051 451 0 1000
R452 452 453 1
R1052 452 0 1000
R453 453 454 1
R1053 453 0 1000
R454 454 455 1
R1054 454 0 1000
R455 455 456 1
R1055 455 0 1000
R456 456 457 1
R1056 456 0 1000
R457 457 458 1
R1057 457 0 1000
R458 458 459 1
R1058 458 0 1000
R459 459 460 1
R1059 459 0 1000
R460 460 461 1
R1060 460 0 1000
R461 461 462 1
R1061 461 0 1000
R462 462 463 1
R1062 462 0 1000
R463 463 464 1
R1063 463 0 1000
R464 464 465 1
R1064 464 0 1000
R465 465 466 1
R1065 465 0 1000
R466 466 467 1
R1066 466 0 1000
R467 467 468 1
R1067 467 0 1000
R468 468 469 1
R1068 468 0 1000
R469 469 470 1
R1069 469 0 1000
R470 470 471 1
R1070 470 0 1000
R471 471 472 1
R1071 471 0 1000
R472 472 473 1
R1072 472 0 1000
R473 473 474 1
R1073 473 0 1000
R474 474 475 1
R1074 474 0 1000
R475 475 476 1
R1075 475 0 1000
R476 476 477 1
R1076 476 0 1000
R477 477 478 1
R1077 477 0 1000
R478 478 479 1
R1078 478 0 1000
R479 479 480 1
R1079 479 0 1000
R480 480 481 1
R1080 480 0 1000
R481 481 482 1
R1081 481 0 1000
R482 482 483 1
R1082 482 0 1000
R483 483 484 1
R1083 483 0 1000
R484 484 485 1
R1084 484 0 1000
R485 485 486 1
R1085 485 0 1000
R486 486 487 1
R1086 486 0 1000
R487 487 488 1
R1087 487 0 1000
R488 488 489 1
R1088 488 0 1000
R489 489 490 1
R1089 489 0 1000
R490 490 491 1
R1090 490 0 1000
R491 491 492 1
R1091 491 0 1000
R492 492 493 1
R1092 492 0 1000
R493 493 494 1
R1093 493 0 1000
R494 494 495 1
R1094 494 0 1000
R495 495 496 1
R1095 495 0 1000
R496 496 497 1
R1096 496 0 1000
R497 497 498 1
R1097 497 0 1000
R498 498 499 1
R1098 498 0 1000
R499 499 500 1
R1099 499 0 1000
R500 500 501 1
R1100 500 0 1000
R501 501 502 1
R1101 501 0 1000
R502 502 503 1
R1102 502 0 1000
R503 503 504 1
R1103 503 0 1000
R504 504 505 1
R1104 504 0 1000
R505 505 506 1
R1105 505 0 1000
R506 506 507 1
R1106 506 0 1000
R507 507 508 1
R1107 507 0 1000
R508 508 509 1
R1108 508 0 1000
R509 509 510 1
R1109 509 0 1000
R510 510 511 1
R1110 510 0 1000
R511 511 512 1
R1111 511 0 1000
R512 512 513 1
R1112 512 0 1000
R513 513 514 1
R1113 513 0 1000
R514 514 515 1
R1114 514 0 1000
R515 515 516 1
R1115 515 0 1000
R516 516 517 1
R1116 516 0 1000
R517 517 518 1
R1117 517 0 1000
R518 518 519 1
R1118 518 0 1000
R519 519 520 1
R1119 519 0 1000
R520 520 521 1
R1120 520 0 1000
R521 521 522 1
R1121 521 0 1000
R522 522 523 1
R1122 522 0 1000
R523 523 524 1
R1123 523 0 1000
R524 524 525 1
R1124 524 0 1000
R525 525 526 1
R1125 525 0 1000
R526 526 527 1
R1126 526 0 1000
R527 527 528 1
R1127 527 0 1000
R528 528 529 1
R1128 528 0 1000
R529 529 530 1
R1129 529 0 1000
R530 530 531 1
R1130 530 0 1000
R531 531 532 1
R1131 531 0 1000
R532 532 533 1
R1132 532 0 1000
R533 533 534 1
R1133 533 0 1000
R534 534 535 1
R1134 534 0 1000
R535 535 536 1
R1135 535 0 1000
R536 536 537 1
R1136 536 0 1000
R537 537 538 1
R1137 537 0 1000
R538 538 539 1
R1138 538 0 1000
R539 539 540 1
R1139 539 0 1000
R540 540 541 1
R1140 540 0 1000
R541 541 542 1
R1141 541 0 1000
R542 542 543 1
R1142 542 0 1000
R543 543 544 1
R1143 543 0 1000
R544 544 545 1
R1144 544 0 1000
R545 545 546 1
R1145 545 0 1000
R546 546 547 1
R1146 546 0 1000
R547 547 548 1
R1147 547 0 1000
R548 548 549 1
R1148 548 0 1000
R549 549 550 1
R1149 549 0 1000
R550 550 551 1
R1150 550 0 1000
R551 551 552 1
R1151 551 0 1000
R552 552 553 1
R1152 552 0 1000
R553 553 554 1
R1153 553 0 1000
R554 554 555 1
R1154 554 0 1000
R555 555 556 1
R1155 555 0 1000
R556 556 557 1
R1156 556 0 1000
R557 557 558 1
R1157 557 0 1000
R558 558 559 1
R1158 558 0 1000
R559 559 560 1
R1159 559 0 1000
R560 560 561 1
R1160 560 0 1000
R561 561 562 1
R1161 561 0 1000
R562 562 563 1
R1162 562 0 1000
R563 563 564 1
R1163 563 0 1000
R564 564 565 1
R1164 564 0 1000
R565 565 566 1
R1165 565 0 1000
R566 566 567 1
R1166 566 0 1000
R567 567 568 1
R1167 567 0 1000
R568 568 569 1
R1168 568 0 1000
R569 569 570 1
R1169 569 0 1000
R570 570 571 1
R1170 570 0 1000
R571 571 572 1
R1171 571 0 1000
R572 572 573 1
R1172 572 0 1000
R573 573 574 1
R1173 573 0 1000
R574 574 575 1
R1174 574 0 1000
R575 575 576 1
R1175 575 0 1000
R576 576 577 1
R1176 576 0 1000
R577 577 578 1
R1177 577 0 1000
R578 578 579 1
R1178 578 0 1000
R579 579 580 1
R1179 579 0 1000
R580 580 581 1
R1180 580 0 1000
R581 581 582 1
R1181 581 0 1000
R582 582 583 1
R1182 582 0 1000
R583 583 584 1
R1183 583 0 1000
R584 584 585 1
R1184 584 0 1000
R585 585 586 1
R1185 585 0 1000
R586 586 587 1
R1186 586 0 1000
R587 587 588 1
R1187 587 0 1000
R588 588 589 1
R1188 588 0 1000
R589 589 590 1
R1189 589 0 1000
R590 590 591 1
R1190 590 0 1000
R591 591 592 1
R1191 591 0 1000
R592 592 593 1
R1192 592 0 1000
R593 593 594 1
R1193 593 0 1000
R594 594 595 1
R1194 594 0 1000
R595 595 596 1
R1195 595 0 1000
R596 596 597 1
R1196 596 0 1000
R597 597 598 1
R1197 597 0 1000
R598 598 599 1
R1198 598 0 1000
R599 599 600 1
R1199 599 0 1000
.tran 0 3 0 0.001
.end
